US04165238
4-(1-Carboxyethoxy)-1,2-naphthoquinone.
To a solution of 38.0 g potassium dihydrogen phosphate in 7.5 l of distilled water (pH 4.0) was added 89.4 g (0.33 mol) potassium nitrosodisulfonate (Fremy's reagent). To this solution was added immediately a solution of 34.8 g (0.15 mol) of 2-(4-hydroxy-1-naphthoxy)propionic acid in 125 ml ethanol. The mixture was stirred for 2.5 hours under nitrogen at room temperature. The yellow-brown solid was collected, washed with a little water and dried (under nitrogen). The yield was 30.0 g (81 percent). The crude product melted at 182 to 184° C.

reactant | potassium dihydrogen phosphate | 38.0 g | P(=O)(O)(O)[O-].[K+]
reactant | potassium nitrosodisulfonate | 0.33 mol, 89.4 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | 2-(4-hydroxy-1-naphthoxy)propionic acid | 0.15 mol, 34.8 g | OC1=CC=C(C2=CC=CC=C12)OC(C(=O)O)C | C13H12O4
solvent | water | 7.5 l, pH 4.0 | O | H2O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 4-(1-Carboxyethoxy)-1,2-naphthoquinone | C(=O)(O)C(C)OC1=CC(C(C2=CC=CC=C12)=O)=O | C13H10O5
